US07479504B2
Heptyl 4-(formyl)benzoate
The title compound was prepared through a condensation between 1-heptanol and 4-formylbenzoic acid. 1H NMR (500 MHz, CDCl3): δ 10.10 (s, 1H), 8.20 (d, J=8.2, 2H), 7.95 (d, J=8.2, 2H), 4.35 (t, J=6.8, 2H), 1.75-1.85 (m, 2H), 1.40-1.50 (m, 2H), 1.25-1.40 (m, 6H), 0.89 (t, J=7.0, 3H).

reactant | 1-heptanol | C(CCCCCC)O | C7H16O
reactant | 4-formylbenzoic acid | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
product | Heptyl 4-(formyl)benzoate | C(=O)C1=CC=C(C(=O)OCCCCCCC)C=C1 | C15H20O3
